US09376429B2
Preparation of 3-cyano-4-(6-(3-fluorophenyl)-4-(furan-3-yl)pyridin-3-yloxy)-N-(thiazol-2-yl)benzenesulfonamide
100 mg (0.22 mmol) of 4-((6-chloro-4-(furan-3-yl)pyridin-3-yl)oxy)-3-cyano-N-(thiazol-2-yl)benzenesulfonamide was dissolved in 2.4 mL of 1,4-dioxane, and 33.6 mg (0.24 mmol) of (3-fluorophenyl)boronic acid was added thereto, and then 8.3 mg (3 mol %) of Pd(PPh3)4, 76.2 mg (0.72 mmol) of Na2CO3, and 2.4 mL of H2O were added thereto. After reacting with microwave reactor at 120° C. for 5 minutes, the solvent was removed, and the remaining material was diluted with ethyl acetate and the organic layer was separated, and washed with saturated sodium chloride. The organic layer was collected, dried with magnesium sulfate to remove water, and concentrated under reduced pressure, and the residue was purified by column chromatography (developing solvent, hexane:ethyl acetate=1:1) to obtain 80 mg (70% yield) of the title compound.

reactant | 4-((6-chloro-4-(furan-3-yl)pyridin-3-yl)oxy)-3-cyano-N-(thiazol-2-yl)benzenesulfonamide | 0.22 mmol, 100 mg | ClC1=CC(=C(C=N1)OC1=C(C=C(C=C1)S(=O)(=O)NC=1SC=CN1)C#N)C1=COC=C1 | C19H11ClN4O4S2
reactant | (3-fluorophenyl)boronic acid | 0.24 mmol, 33.6 mg | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | Na2CO3 | 0.72 mmol, 76.2 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | H2O | 2.4 mL | O | H2O
solvent | 1,4-dioxane | 2.4 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 8.3 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-cyano-4-(6-(3-fluorophenyl)-4-(furan-3-yl)pyridin-3-yloxy)-N-(thiazol-2-yl)benzenesulfonamide | 80 mg, 70% yield | C(#N)C=1C=C(C=CC1OC=1C=NC(=CC1C1=COC=C1)C1=CC(=CC=C1)F)S(=O)(=O)NC=1SC=CN1 | C25H15FN4O4S2
